US06498169B1
Synthesis of 2,6-Dimethoxy-4-iodophenol
To a solution of 5-iodo-1,2,3-trimethoxybenzene (3.2 g) in 1,2-dichloroethane (40 mL) was added aluminum chloride (1.6 g). The mixture was stirred at 60° C. for 4 hours and evaporated. The residue was dissolved in 1 M aqueous sodium hydroxide solution and washed with ether. The aqueous layer was then acidified and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated to give the title compound as white crystalline powder.

reactant | 5-iodo-1,2,3-trimethoxybenzene | 3.2 g | IC=1C=C(C(=C(C1)OC)OC)OC | C9H11IO3
reactant | aluminum chloride | 1.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 2,6-Dimethoxy-4-iodophenol | COC1=C(C(=CC(=C1)I)OC)O | C8H9IO3
